US08426447B2
A vial was charged with (S)-2′-amino-3-p-tolyl-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate (209 mg, 0.426 mmol), copper(i) iodide (8.11 mg, 0.043 mmol), and tetrakis(triphenylphosphine)palladium (49.2 mg, 0.043 mmol). The vial was flushed with Ar (g), then DMF (1704 μL, 0.426 mmol), diisopropylamine (1194 μL, 8.52 mmol), and 2-methylbut-3-yn-2-ol (208 μL, 2.130 mmol) were added in sequence. The vial was sealed and placed in a 70° C. oil bath for 2 hours. The mixture was diluted with EtOAc (15 mL), washed with water (10 mL), washed with brine (15 mL), dried over sodium sulfate, filtered, and evaporated. The residue was taken up in DCM/MeOH (not completely soluble) and chromatographed on a 40-g Redi-Sep column, eluting with 0-8% MeOH/DCM (product came out in a streak) to give (S)-4-(2′-amino-3-p-tolyl-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl)-2-methylbut-3-yn-2-ol as a light yellow solid

reactant | (S)-2′-amino-3-p-tolyl-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate | 0.426 mmol, 209 mg | FC(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C1=CC=C(C=C1)C)(F)F | C22H16F3N3O5S
reactant | DMF | 0.426 mmol, 1704 μL | CN(C)C=O | C3H7NO
reactant | diisopropylamine | 8.52 mmol, 1194 μL | C(C)(C)NC(C)C | C6H15N
reactant | 2-methylbut-3-yn-2-ol | 2.130 mmol, 208 μL | CC(C)(C#C)O | C5H8O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | copper(i) iodide | 0.043 mmol, 8.11 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.043 mmol, 49.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-4-(2′-amino-3-p-tolyl-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl)-2-methylbut-3-yn-2-ol | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C1=CC=C(C=C1)C)C#CC(C)(O)C | C26H23N3O3
